US08445509B2
Production of N-{6-[(5-nitropyridin-2-yl)oxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide
To a solution of N-(6-hydroxyimidazo[1,2-a]pyridin-2-yl)cyclopropanecarboxamide (200 mg, 0.921 mmol) and 2-chloro-5-nitropyridine (175 mg, 1.1 mmol) in dimethyl sulfoxide (3 mL) was added cesium carbonate (450 mg, 1.38 mmol), and the mixture was stirred at room temperature for 3 hr. Ethyl acetate, tetrahydrofuran and water were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The obtained residue was washed with ethyl acetate and collected by filtration to give the title compound (111 mg, 36%) as a brown solid.

reactant | N-(6-hydroxyimidazo[1,2-a]pyridin-2-yl)cyclopropanecarboxamide | 0.921 mmol, 200 mg | OC=1C=CC=2N(C1)C=C(N2)NC(=O)C2CC2 | C11H11N3O2
reactant | 2-chloro-5-nitropyridine | 1.1 mmol, 175 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | cesium carbonate | 1.38 mmol, 450 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-{6-[(5-nitropyridin-2-yl)oxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide | 111 mg, 36% | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=CC=2N(C1)C=C(N2)NC(=O)C2CC2 | C16H13N5O4
